US08703922B2
Synthesis of 4,8,12,16-tetramethylheptadec-3-en-1-ol
Under a nitrogen atmosphere, 9.8 g (0.26 mol) of lithium aluminum hydride was added little by little at 0° C. to a solution of 35 g (0.10 mol) of methyl 4,8,12,16-tetramethylheptadec-3-enoate in dry tetrahydrofuran (250 mL). After being stirred at 50° C. for 3 hours, the reaction mixture was cooled on ice, followed by careful addition of saturated sodium sulfate aqueous solution until the resulting gray suspension turned white. Sodium sulfate was added to the solution at room temperature for drying. After filtration, the filtrate was concentrated to obtain 28.7 g of the title compound (92% yield) as a colorless transparent liquid. The results of NMR analysis of the obtained compound are as shown below.

reactant | lithium aluminum hydride | 0.26 mol, 9.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 4,8,12,16-tetramethylheptadec-3-enoate | 0.10 mol, 35 g | CC(=CCC(=O)OC)CCCC(CCCC(CCCC(C)C)C)C | C22H42O2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 4,8,12,16-tetramethylheptadec-3-en-1-ol | 28.7 g, 92% yield | CC(=CCCO)CCCC(CCCC(CCCC(C)C)C)C | C21H42O
